Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2],6.3780668702
[H:1][O:2][C:3]([H:4])([H:5])[O:6][H:7]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6][H:7],4.41724458915
[C:1]#[C:2][O:3][C:4]([H:5])=[O:6].[H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7],-2.0882985723500003
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:11].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10],5.98073289324
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],5.21060759663
[C:1][C:2]([H:3])([H:4])[H:5]>>[C:1]=[C:2]([H:3])[H:4].[H:5],1.7386109555000002
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:3],4.27910354476
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:5],3.61219098998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.623119724
[C:1]#[C:2].[O:3][C:4]#[C:5][H:6]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6],-3.0307098049400003
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][H:3].[O:4]=[C:5][O:6][C:7]([H:8])([H:9])[H:10],2.6135542374500003
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1][C:2]#[C:3][C:5]([H:6])=[C:7]([H:8])[H:9].[O:4],4.84701876876
[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.75294008572
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][O:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11],-2.45534054417
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.89857502992
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],4.98068097453
[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.34317613863
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.20734202702
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11]>>[H:6].[O:1][C:2]([H:3])([H:4])[C:5]#[C:7][O:8][C:9]([H:10])[H:11],2.9540723856299995
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],5.95604468033
[C:6]([H:7])#[C:8][H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],1.1303885247499998
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][H:8].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-5.32729182823
[H:1][C:2]=[C:10]([C:5](=[C:4]=[O:3])[C:6]([H:7])([H:8])[H:9])[H:11]>>[H:1][c:2]1[o:3][c:4][c:5]([C:6]([H:7])([H:8])[H:9])[c:10]1[H:11],-0.45875582169
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2],4.8500863221
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7].[O:8][H:9],5.4322467231800005
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[O:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]1[O:8][C:9]1([H:10])[H:11],2.02891611651
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:4],4.859368386130001
[O:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.37908419276
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.80936982649
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10]>>[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9],4.71044701666
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[O:12][C:13]([H:14])([H:15])[H:16],4.52933927988
